US06642233B1
A) 1-(4-Benzyl-1-piperazinyl)cyclohexanecarbonitrile
5.7 g of cyclohexanone, 20 g of dry MgSO4, 10 g of N,N-dimethylacetamide, 10 g of 1-benzylpiperazine and 9.5 ml of 2-hydroxyisobutyronitrile are mixed together and heated at 45° C. for 48 hours with vigorous stirring. The reaction mixture is poured onto ice and left stirring for 30 minutes. The mixture is extracted with ether, the organic phase is washed several times with water and dried over Na2SO4, and the solvent is evaporated off under vacuum. 15 g of the expected product are obtained.

reactant | cyclohexanone | 5.7 g | C1(CCCCC1)=O | C6H10O
reactant | MgSO4 | 20 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | 1-benzylpiperazine | 10 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | 2-hydroxyisobutyronitrile | 9.5 ml | OC(C#N)(C)C | C4H7NO
solvent | N,N-dimethylacetamide | 10 g | CN(C(C)=O)C | C4H9NO
product | 1-(4-Benzyl-1-piperazinyl)cyclohexanecarbonitrile | 15 g | C(C1=CC=CC=C1)N1CCN(CC1)C1(CCCCC1)C#N | C18H25N3
